US08669234B2
2-[4-(4-Bromo-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester (222 mg) was dissolved in DMF (4 mL), and NaH (25 mg) was added. The mixture was stirred over 20 min. and 1-bromo-2-methoxy-ethane was added slowly, and then stirred for 2.5 hours. The mixture was quenched with 3 mL of sat. NH4Cl and was taken up in ethyl acetate (50 mL). The organic phase was washed with saturated sodium bicarbonate (1×50 mL) and dried over sodium sulfate. After the solvent was removed, the resulting oil was subjected to silica gel chromatography using effluent of 20-60% ethyl acetate and hexanes. The fractions containing product were combined and the solvent was removed under reduced pressure to provide 2-[4-(4-Bromo-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-4-(2-methoxy-ethoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (209 mg, 85%) as a clear oil.

reactant | 2-[4-(4-Bromo-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | 222 mg | C(C)(C)(C)OC(=O)N1C(CC(C1)O)C=1N(C=C(N1)C1=CC=C(C=C1)Br)COCC[Si](C)(C)C | C24H36BrN3O4Si
reactant | NaH | 25 mg | [H-].[Na+]
reactant | 1-bromo-2-methoxy-ethane | BrCCOC | C3H7BrO
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-[4-(4-Bromo-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazol-2-yl]-4-(2-methoxy-ethoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 209 mg, 85% | C(C)(C)(C)OC(=O)N1C(CC(C1)OCCOC)C=1N(C=C(N1)C1=CC=C(C=C1)Br)COCC[Si](C)(C)C | C27H42BrN3O5Si
